US08003649B2
Methanesulfonyl chloride (2.83 mL, 36.51 mmol) in DCM (30 mL) was added dropwise to a stirred partial solution of [1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]methanol (10 g, 33.19 mmol) and triethylamine (5.09 mL, 36.51 mmol) in DCM (140 mL). The reaction was stirred for 20 minutes, quenched with water (100 mL) and extracted with DCM (2×75 mL). The organic layer was dried over MgSO4, filtered and evaporated to afford a yellow solid. The crude solid was triturated with ether to give a solid which was collected by filtration and dried under vacuum to give 6-[4-(methanesulfonyloxymethyl)piperidin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (7.60 g, 60.4%) as a white solid.

reactant | Methanesulfonyl chloride | 36.51 mmol, 2.83 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | [1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]methanol | 33.19 mmol, 10 g | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)CO)(F)F | C12H14F3N5O
reactant | triethylamine | 36.51 mmol, 5.09 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 140 mL | C(Cl)Cl | CH2Cl2
product | 6-[4-(methanesulfonyloxymethyl)piperidin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 7.60 g, 60.4% | CS(=O)(=O)OCC1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C13H16F3N5O3S
